US04849422
Grams 8.65 of 1-(3-hydroxypropyl)piperazine and 4.7 g of 2-chloronicotinic acid in 100 ml dioxane were refluxed for 6 hours. The reaction mixture was cooled and settled. The residual oil, crystallized from 95° ethanol, gave 2.3 g of 2-[4-(3-hydroxypropyl)piperazin-1-yl]nicotinic acid, melting at 222°-225° C. (with decomposition).

reactant | 1-(3-hydroxypropyl)piperazine | OCCCN1CCNCC1 | C7H16N2O
reactant | 2-chloronicotinic acid | 4.7 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(3-hydroxypropyl)piperazin-1-yl]nicotinic acid | 2.3 g | OCCCN1CCN(CC1)C1=C(C(=O)O)C=CC=N1 | C13H19N3O3
